US08426411B2
A solution of 3,3-difluoroazetidine hydrochloride (1.00 g, 7.72 mmol) and DIEA (1.5 mL, 8.6 mmol) in MeCN (5 mL) was stirred for about 5 min and then was added to a solution of 1-(1H-imidazol-1-ylsulfonyl)-3-methyl-1H-imidazol-3-ium trifluoromethanesulfonate (4.20 g, 11.6 mmol) in MeCN (10 mL) at about 0° C. The reaction mixture was stirred at about 0° C. for about 1 h, and then warmed to ambient temperature and stirred for about 16 h. The reaction mixture was then concd under reduced pressure. The crude material was purified by flash chromatography on silica gel eluting with a gradient of 5-100% EtOAc in DCM to give 1-(3,3-difluoroazetidin-1-ylsulfonyl)-1H-imidazole (0.95 g, 55%) as a yellow solid: LC/MS (Table 1, Method c) Rt=1.16 min; MS m/z 224 (M+H)+.

reactant | 3,3-difluoroazetidine hydrochloride | 7.72 mmol, 1.00 g | Cl.FC1(CNC1)F
reactant | DIEA | 8.6 mmol, 1.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(1H-imidazol-1-ylsulfonyl)-3-methyl-1H-imidazol-3-ium trifluoromethanesulfonate | 11.6 mmol, 4.20 g | FC(S(=O)(=O)[O-])(F)F.N1(C=NC=C1)S(=O)(=O)N1C=[N+](C=C1)C
solvent | MeCN | 5 mL | CC#N | C2H3N
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 1-(3,3-difluoroazetidin-1-ylsulfonyl)-1H-imidazole | 0.95 g, 55% | FC1(CN(C1)S(=O)(=O)N1C=NC=C1)F | C6H7F2N3O2S
